US04835181
4-(Dimethylamino)-N-(2,6-dimethylphenyl)benzamide
Ten grams of N-(2,6-dimethylphenyl)-4-fluorobenzamide were dissolved in 50 ml of dimethylsulfoxide in a high pressure/temperature bomb. Anhydrous dimethylamine (18.5 g) was added and the reaction vessel sealed and heated at 150° C. for 18 hours. The bomb was cooled and the contents poured into water. The mixture was extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residue was crystallized from methanol/water affording the desired title product in 56% yield, m.p. 215°-217° C.

reactant | N-(2,6-dimethylphenyl)-4-fluorobenzamide | Ten grams | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)F)=O | C15H14FNO
reactant | dimethylamine | 18.5 g | CNC | C2H7N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(Dimethylamino)-N-(2,6-dimethylphenyl)benzamide | CN(C1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1)C | C17H20N2O
